US04999378
(1) Methyl 4-[3-[N-(2-carboxyethyl)-N-(4-chlorophenyl)amino]propoxy]benzoate
Methyl 4-[3-[N-[4-chlorophenyl)amino]propoxy]benzoate (2.0 g) was dissolved in toluene (6 ml), and thereto was added acrylic acid (2.24 ml), and the mixture was heated with stirring at 100° C. for 24 hours. The reaction mixture was diluted with ethyl acetate, and washed successively with aqueous sodium bicarbonate solution 2 times and water once, and it was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixed solvent of chloroform/methanol [60:1 (v/v)] to give the oily desired product (1.64 g).

reactant | Methyl 4-[3-[N-[4-chlorophenyl)amino]propoxy]benzoate | 2.0 g | ClC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18ClNO3
reactant | acrylic acid | 2.24 ml | C(C=C)(=O)O | C3H4O2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[3-[N-(2-carboxyethyl)-N-(4-chlorophenyl)amino]propoxy]benzoate | 1.64 g | C(=O)(O)CCN(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C20H22ClNO5
